US07067517B2
4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl ester
The title compound was prepared from 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl chloroformate and 1-pyridin-3-ylmethyl-piperazine, hydrochloride, preparative HPLC (Method C) (75%, colourless oil). HPLC-MS m/z=437.2 (M+1), Rt: 1.70 min.

reactant | 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)N1C(CC(CC1=O)(C)C)=O | C14H14ClNO4
reactant | 1-pyridin-3-ylmethyl-piperazine, hydrochloride | Cl.N1=CC(=CC=C1)CN1CCNCC1
product | 4-Pyridin-3-ylmethyl-piperazine-1-carboxylic acid 4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-phenyl ester | CC1(CC(N(C(C1)=O)C1=CC=C(C=C1)OC(=O)N1CCN(CC1)CC=1C=NC=CC1)=O)C | C24H28N4O4
